US09260439B2
Step 3: Preparation of tert-butyl 3-{4-(2-aminopyrimidin-5-yl)-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate
To a stirred mixture of tert-butyl 3-{4-chloro-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate (8.33 g, 20.32 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (9.88 g, 44.7 mmol) and CsF (9.26 g, 61 mmol) in 1,4-dioxane (250 mL) and water (50 mL) was added Pd(dppf)2Cl2 (2.23 g, 3.05 mmol) under nitrogen. The mixture was heated under reflux for 18 h. The mixture was diluted with EtOAc (300 mL) and washed with water (300 mL), brine (300 mL×2), dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography eluting with a gradient of petroleum ether/EtOAc (from 1:1 to 0:1) to give 9.52 g (100%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.74 (s, 2 H), 6.97 (s, 2 H), 4.75-4.67 (m, 1 H), 4.63-4.56 (m, 1 H), 4.26-4.13 (m, 3 H), 4.08-4.00 (m, 2 H), 3.90-3.84 (m, 1 H), 3.71-3.64 (m, 3 H), 3.56 (dd, J=11.3, 3.0 Hz, 1 H), 3.40 (dt, J=11.7, 2.7 Hz, 1H), 3.17-3.02 (m, 3 H), 1.39 (s, 9 H), 1.15 (d, J=6.7 Hz, 3 H).

reactant | tert-butyl 3-{4-chloro-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate | 20.32 mmol, 8.33 g | ClC=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)C2CN(C2)C(=O)OC(C)(C)C | C19H28ClN5O3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 44.7 mmol, 9.88 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | CsF | 61 mmol, 9.26 g | [F-].[Cs+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)2Cl2 | 3.05 mmol, 2.23 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 3-{4-(2-aminopyrimidin-5-yl)-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate | 9.52 g, 100% | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)C2CN(C2)C(=O)OC(C)(C)C | C23H32N8O3
